US04055665
By following essentially the same procedure described in Example 2 but substituting N,N-dimethyl-2-(phenylthio)benzamide for the N-methyl-2-(phenylthio)benzamide, there is obtained N,N-dimethyl-2-(phenylthio)benzylamine.

reactant | N,N-dimethyl-2-(phenylthio)benzamide | CN(C(C1=C(C=CC=C1)SC1=CC=CC=C1)=O)C | C15H15NOS
reactant | N-methyl-2-(phenylthio)benzamide | CNC(C1=C(C=CC=C1)SC1=CC=CC=C1)=O | C14H13NOS
product | N,N-dimethyl-2-(phenylthio)benzylamine | CN(C)CC1=C(C=CC=C1)SC1=CC=CC=C1 | C15H17NS
